US04279918
2-(α-ethoxycarbonyl-4-chlorobenzylidene)-1-methylpyrrolidine
Add [dropwise, with stirring, at 100° (bath temperature), in a stream of nitrogen] a solution of 9.6 g of sodium in 200 ml of ethanol to a mixture of 99 g of 2-dimethylamino-1-methyl-1-pyrrolinium-methylsulfate and 65 g of 4-chlorophenylacetic acid ethyl ester. Remove the alcohol from the reaction mixture by the stream of nitrogen. Continue stirring for a further 30 minutes at 100°; cool the reaction mixture; add 200 ml of water to the cooled reaction mixture; and then extract it with 5×100 ml of diethyl ether. Combine the ether extracts, dry the combined extracts over sodium sulfate, concentrate them and then remove a little excess 4-chlorophenylacetic acid ethyl ester by heating under a high vacuum to obtain a yield [86 g (94% of theory)] of crude title compound having a m.p. of 71°.

reactant | sodium | 9.6 g | [Na] | Na
reactant | 2-dimethylamino-1-methyl-1-pyrrolinium methylsulfate | 99 g | CN(C1=[N+](CCC1)C)C.COS(=O)(=O)[O-]
reactant | 4-chlorophenylacetic acid ethyl ester | 65 g | C(C)OC(CC1=CC=C(C=C1)Cl)=O | C10H11ClO2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(α-ethoxycarbonyl-4-chlorobenzylidene)-1-methylpyrrolidine | C(C)OC(=O)C(C1=CC=C(C=C1)Cl)=C1N(CCC1)C | C15H18ClNO2
